US05635510
57.1 Synthesis of 3-cyano-3-(4-trifluoromethyl-phenyl)-pentanedioic acid diethyl ester
Prepare by the method of example 1.1.2 using 4-trifluoromethyl-phenylacetonitrile (0.161 mol) and ethyl bromoacetate (0.325 mol). Chromatograph on silica gel to give the title compound.

reactant | 4-trifluoromethyl-phenylacetonitrile | 0.161 mol | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | ethyl bromoacetate | 0.325 mol | BrCC(=O)OCC | C4H7BrO2
product | 3-cyano-3-(4-trifluoromethyl-phenyl)-pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C1=CC=C(C=C1)C(F)(F)F)C#N)=O | C17H18F3NO4
